US05166347
Preparation of N-cyano-N'-(2-phenylethyl)-2-furancarboximidamide
Methyl N-cyano-2-furancarboximidate (0.30 g, 2.0 mmol) was dissolved in methanol (2 ml), and 2-phenylethylamine (0.27 g, 2.2 mmol) was added. The mixture was stirred at room temperature for 1 hour. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was crystallized from diethyl ether-hexane to give the title compound (0.46 g, 1.93 mmol, yield: 97%) as colorless crystals.

reactant | Methyl N-cyano-2-furancarboximidate | 2.0 mmol, 0.30 g | C(#N)N=C(OC)C=1OC=CC1 | C7H6N2O2
reactant | 2-phenylethylamine | 2.2 mmol, 0.27 g | C1(=CC=CC=C1)CCN | C8H11N
solvent | methanol | 2 ml | CO | CH4O
product | N-cyano-N'-(2-phenylethyl)-2-furancarboximidamide | 1.93 mmol, 0.46 g, yield: 97% | C(#N)NC(=NCCC1=CC=CC=C1)C=1OC=CC1 | C14H13N3O
